US05391553
9-Chloro-7-cyclohexyl-1,2,3,4-tetrahydroacridine
7-Cyclohexyl-9-hydroxy-1,2,3,4-tetrahydroacridine (15.539 g) was refluxed for 45 minutes in 100 mL of POCl3. At the end of this time the reaction mixture was concentrated under reduced pressure and the residue was distributed between water and ether. Aqueous ammonia was added portionwise with shaking until all the organic material was dissolved in the ether layer. Evaporation and recrystallization of the residue from methanol gave 14.81 g of analytically pure product, mp 89°-91° C.

reactant | 7-Cyclohexyl-9-hydroxy-1,2,3,4-tetrahydroacridine | 15.539 g | C1(CCCCC1)C1=CC=C2N=C3CCCCC3=C(C2=C1)O | C19H23NO
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 9-Chloro-7-cyclohexyl-1,2,3,4-tetrahydroacridine | ClC=1C2=CC(=CC=C2N=C2CCCCC12)C1CCCCC1 | C19H22ClN
